US06458772B1
a) 4-Methoxybenzyl 2-hydroxyisobutyrate
2-hydroxy isobutyric acid (1.56 g) was esterified by alkylation with 4-methoxybenzyl chloride by the method described in Example A-I-1, step a). The title compound (2.65 g) was obtained after silica gel column chromatography (0, 1, 2% ethanol in dichloromethane). Rf (2%MeOH/CHCl3) 0.45.

reactant | 2-hydroxy isobutyric acid | 1.56 g | OC(C(=O)O)(C)C | C4H8O3
reactant | 4-methoxybenzyl chloride | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | ethanol | C(C)O | C2H6O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-Methoxybenzyl 2-hydroxyisobutyrate | 2.65 g | OC(C(=O)OCC1=CC=C(C=C1)OC)(C)C | C12H16O4
